US06756378B2
To a stirred mixture of 1-(tert-butoxycarbonyl)-4,4-difluoro-2-pyrrolidinylmethanol (600 mg, 2.53 mmol), methyl 4-hydroxybenzoate (462 mg, 3.03 mmol), Ph3P (795 mg, 3.03 mmol) in THF (10 ml) was added DIAD (597 ul, 3.03 mmol) at room temperature. The mixture was heated at reflux for 3 h with stirring. After cooling to room temperature, the mixture was concntrated in vacuo. The residue was chromatographed on silica gel with hexane-EtOAc (4:1) as eluent to give methyl 4-[1-(tert-butoxycarbonyl)-4,4-difluoro-2-pyrrolidinylmethoxy]benzoate (831 mg, 88%) as a colorless oil. 1H-NMR (CDCl3) δ1.48 (s, 9 H), 2.53-2.61 (m, 2 H), 3.63-4.41 (series of m, total 8 H), 6.94 (d, J=8.8 Hz, 2 H), 7.99 (d, J=8.8 Hz, 2 H).

reactant | 1-(tert-butoxycarbonyl)-4,4-difluoro-2-pyrrolidinylmethanol | 2.53 mmol, 600 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)(F)F)CO | C10H17F2NO3
reactant | methyl 4-hydroxybenzoate | 3.03 mmol, 462 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | Ph3P | 3.03 mmol, 795 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 3.03 mmol, 597 ul | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 4-[1-(tert-butoxycarbonyl)-4,4-difluoro-2-pyrrolidinylmethoxy]benzoate | 831 mg, 88% | C(C)(C)(C)OC(=O)N1C(CC(C1)(F)F)COC1=CC=C(C(=O)OC)C=C1 | C18H23F2NO5
